US07838543B2
3-(3,4-Difluoro-phenyl)-N-[2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-acrylamide
Prepare according to Method C (Example 9), using 3,4-difluorocinnamic acid (107 mg, 0.581 mmol), oxalyl chloride (250 μL, 2.87 mmol), and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine (100 mg, 0.382 mmol) to afford the title compound (126 mg, 77%). mass spectrum (m/e): 429.0 [M+H], 427.0 [M−H]. 1H NMR (400 MHz, DMSO-d6) δ 10.23 (s, 1H), 8.25 (d, 1H, J=0.9 Hz), 7.72 (m, 1H), 7.55 (d, 1H, J=15.3 Hz), 7.52-7.48 (m, 2H), 7.43-7.41 (m, 2H), 6.80 (d, 1H, J=15.8 Hz), 3.70 (dd, 1H, J=9.7, 7.0 Hz), 3.61 (m, 1H), 3.47 (m, 1H), 3.26 (dd, 1H, J=9.9, 8.1 Hz), 2.88 (m, 1H), 2.21-2.17 (m, 7H), 1.90 (m, 1H).

reactant | 3,4-difluorocinnamic acid | 0.581 mmol, 107 mg | FC=1C=C(C=CC(=O)O)C=CC1F | C9H6F2O2
reactant | oxalyl chloride | 2.87 mmol, 250 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-ylamine | 0.382 mmol, 100 mg | CN(C1CN(CC1)C=1SC2=C(N1)C=CC(=C2)N)C | C13H18N4S
product | 3-(3,4-Difluoro-phenyl)-N-[2-(3-dimethylamino-pyrrolidin-1-yl)-benzothiazol-6-yl]-acrylamide | 126 mg, 77% | FC=1C=C(C=CC1F)C=CC(=O)NC1=CC2=C(N=C(S2)N2CC(CC2)N(C)C)C=C1 | C22H22F2N4OS
